US08865765B2
Step 4: Isolation of Sodium Nα-lauroyl-Nε-isothiocyanato-L-Lysinate via lyophilization.
0.147 g of Nα-lauroyl-Nε-isothiocyanato-L-Lysine was combined and stirred with 2 g of RO water and 0.39 mL of 1.00 M NaOH in a 50 mL single neck round bottom flask and filtered into a 250 mL single neck round bottom flask to yield a clear pale amber solution. The flask was then immersed while rotating into a dry ice/acetone bath to yield a solid coating on the walls of the flask, whereupon the flask was evacuated (0.10 mm Hg) and removed from the ice bath. Evacuation for one hour yielded a dry white solid powder of the water soluble surfactant Sodium Nα-lauroyl-Nε-isothiocyanato-L-Lysinate. [mp 47-55° C. to small droplets of clear colorless viscous liquid; IR (mineral oil mull, cm−1), 3300m amide N—H str; 2188s, 2107s N═C str; 1627s, amide C═O str; 1593s carboxylate C═O str]

reactant | Nα-lauroyl-Nε-isothiocyanato-L-Lysine | 0.147 g | C(CCCCCCCCCCC)(=O)N[C@@H](CCCCNN=C=S)C(=O)O | C19H35N3O3S
reactant | NaOH | 1.00 M, 0.39 mL | [OH-].[Na+]
solvent | water | O | H2O
product | Sodium Nα-lauroyl-Nε-isothiocyanato-L-Lysinate | C(CCCCCCCCCCC)(=O)N[C@@H](CCCCNN=C=S)C(=O)[O-].[Na+] | InChI=1S/C19H35N3O3S.Na/c1-2-3-4-5-6-7-8-9-10-14-18(23)22-17(19(24)25)13-11-12-15-20-21-16-26;/h17,20H,2-15H2,1H3,(H,22,23)(H,24,25);/q;+1/p-1/t17-;/m0./s1
